US04814332
43.8 of O-diphenylphosphinylhydroxylamine are added to 30.1 g of 1-amino-2-phenylimidazole in 2000 ml of dichloromethane. After stirring at room temperature for 3 days an additional 21.9 g of O-diphenylphosphinylhydroxylamine added. After one day, the mixture is filtered and the filter material is washed four times with 150 ml of dichloromethane each time. The residue is placed on a column loaded with 700 ml of ion-exchanger Amberlite IRA 400 (chloride), whereupon elution is carried out with water. The eluate is evaporated and the residue is treated with ethanol and evaporated. After drying in a high vacuum over potassium hydroxide, there is obtained 1,3-diamino-2-phenylimidazolium chloride.

reactant | O-diphenylphosphinylhydroxylamine | C1(=CC=CC=C1)P(=O)(ON)C1=CC=CC=C1 | C12H12NO2P
reactant | 1-amino-2-phenylimidazole | 30.1 g | NN1C(=NC=C1)C1=CC=CC=C1 | C9H9N3
reactant | O-diphenylphosphinylhydroxylamine | 21.9 g | C1(=CC=CC=C1)P(=O)(ON)C1=CC=CC=C1 | C12H12NO2P
reactant | dichloromethane | 2000 ml | ClCCl | CH2Cl2
product | 1,3-diamino-2-phenylimidazolium chloride | [Cl-].N[N+]1=C(N(C=C1)N)C1=CC=CC=C1 | InChI=1S/C9H11N4.ClH/c10-12-6-7-13(11)9(12)8-4-2-1-3-5-8;/h1-7H,10-11H2;1H/q+1;/p-1
